US05958942
ii) Synthesis of 4,5-dihydro-4-[4-(trifluoromethane sulfonamido)phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride
To a suspension of 129 mg (0.30 mmol) of 4,5-dihydro-4-[4-(trifluoromethanesulfonamido) phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione in 10 ml of methanol was added 0.04 ml of conc. HCl. The solvent was distilled off. To the residue was added acetone. The resulting solid was washed with acetone and dried to afford 141 mg of the desired compound (100%, a pale brown solid).

reactant | 4,5-dihydro-4-[4-(trifluoromethanesulfonamido) phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 0.30 mmol, 129 mg | FC(S(=O)(=O)NC1=CC=C(C=C1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C17H11F3N4O4S
reactant | HCl | 0.04 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4,5-dihydro-4-[4-(trifluoromethane sulfonamido)phenylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride | 141 mg | Cl.FC(S(=O)(=O)NC1=CC=C(C=C1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | InChI=1S/C17H11F3N4O4S.ClH/c18-17(19,20)29(27,28)22-11-6-4-10(5-7-11)9-23-15(25)12-2-1-3-14-21-8-13(16(23)26)24(12)14;/h1-8,22H,9H2;1H
